US07259183B2
Preparation of [rac]-(4-tert-butyl-benzyl)-(3,3,3-trifluoro-2-hydroxy-propyl)-amine
99 mg of [rac]-N-(4-tert-butyl-benzyl)-2,2,2-trifluoro-N-(3,3,3-trifluoro-2-hydroxy-propyl)-acetamide (0.27 mmol) were dissolved in 0.5 ml ethanol, treated with 0.4 ml 2N NaOH (0.8 mmol) and heated to 75° C. (bath temperature) for 4 h. After this period a second portion of 0.4 ml 2N NaOH (0.8 mmol) was added and the reaction mixture stirred at 7° C. (bath temperature) for additional 24 h. Then the reaction mixture was cooled down to rt, diluted with diethylether, treated with 1.6 ml 1N HCl and extracted with EtOAc. The organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo, leading to 87 mg of [rac]-(4-tert-butyl-benzyl)-(3,3,3-trifluoro-2-hydroxy-propyl)-amine as an off-white solid (>100%). The crude material was used without further purification in the next step.

reactant | [rac]-N-(4-tert-butyl-benzyl)-2,2,2-trifluoro-N-(3,3,3-trifluoro-2-hydroxy-propyl)-acetamide | 0.27 mmol, 99 mg | C(C)(C)(C)C1=CC=C(CN(C(C(F)(F)F)=O)CC(C(F)(F)F)O)C=C1 | C16H19F6NO2
reactant | NaOH | 0.8 mmol, 2N, 0.4 ml | [OH-].[Na+]
reactant | NaOH | 0.8 mmol, 2N, 0.4 ml | [OH-].[Na+]
reactant | HCl | 1N, 1.6 ml | Cl | ClH
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | diethylether | C(C)OCC | C4H10O
product | [rac]-(4-tert-butyl-benzyl)-(3,3,3-trifluoro-2-hydroxy-propyl)-amine | C(C)(C)(C)C1=CC=C(CNCC(C(F)(F)F)O)C=C1 | C14H20F3NO
